US05071999
Ethyl 8-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate
16 g (55 mmol) of ethyl 2-benzyl-8-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate in 300 ml of ethanol are hydrogenated at 100° C. and 100 bar on 3 g of palladium-active carbon (10% Pd). The catalyst is filtered off with suction, the filtrate is concentrated and the residue is distilled.

reactant | ethyl 2-benzyl-8-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 55 mmol, 16 g | C(C1=CC=CC=C1)N1C2C(N(CC2CC1)C(=O)OCC)C | C17H24N2O2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium | 3 g | [Pd] | Pd
product | Ethyl 8-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | CC1N(CC2CCNC12)C(=O)OCC | C10H18N2O2
